US04428948
A. Preparation of α-(hydroxybenzyl-4,5,6,7-tetrahydro-1H-1,3-diazepine hydrochloride
To 200 ml of absolute ethanol was added 1,4-diaminobutane at 0° C. with continuous stirring. To this solution waas added an equal molar amount of ethyl mandelimidate hydrochloride. After stirring at 0°-5° C. for two hours, the suspension was heated under reflux 12 hours then cooled and concentrated to remove any traces of NH3. The concentrated solution was acidified by dropwise addition of ethanolic HCl into the suspension which was then concentrated to dryness and the residue recrystallized several times from CH3CN/ether to yield 14.5 g (34%) of product: mp 179°-181° C. Structure was confirmed by IR and NMR.

reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
reactant | ethyl mandelimidate hydrochloride | Cl.C(C(O)C1=CC=CC=C1)(OCC)=N
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | hydroxybenzyl-4,5,6,7-tetrahydro-1H-1,3-diazepine hydrochloride | 14.5 g, 34% | Cl.OC=1N(CCCCN1)CC1=CC=CC=C1 | InChI=1S/C12H16N2O.ClH/c15-12-13-8-4-5-9-14(12)10-11-6-2-1-3-7-11;/h1-3,6-7H,4-5,8-10H2,(H,13,15);1H
